*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:58:18 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFTRX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFTRX4 RN Q CK D SI QN SE
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 2.49655e-16
*|P (RN X 0 0.7000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.6825 0.4775)
*|I (Mmp0:g Mmp0 g X 0 0.6825 1.0325)
*|S (RN:2 0.7200 0.6850)
C1 Mmp0:g VSS 4.01302e-17
C2 Mmn0:g VSS 4.59309e-17
C3 RN:2 VSS 1.63594e-16
Rl1 RN:2 Mmn0:g 37.694366 $W=0.039
Rl2 Mmp0:g RN:2 78.078979 $W=0.039
Rk3 RN:2 RN 45.010017 $W=0.135
*
*|NET Q 2.97743e-16
*|P (Q X 0 5.5000 0.8550)
*|I (Mmn55@1:d Mmn55@1 d X 0 5.3900 0.4450)
*|I (Mmp55@1:d Mmp55@1 d X 0 5.4900 1.0950)
C4 Mmp55@1:d VSS 1.52344e-16
C5 Mmn55@1:d VSS 1.21418e-16
C6 Q VSS 2.39821e-17
Rk4 Mmn55@1:d Q 0.212793 $W=0.09
Rk5 Mmp55@1:d Q 0.049910 $W=0.1
*
*|NET CK 2.42429e-16
*|P (CK X 0 2.3000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 2.2425 0.3775)
*|I (Mmp20:g Mmp20 g X 0 2.2425 1.2775)
*|S (CK:2 2.2700 0.5850)
C7 Mmp20:g VSS 5.81927e-17
C8 Mmn20:g VSS 2.47888e-17
C9 CK:2 VSS 8.83156e-17
C10 CK VSS 7.11322e-17
Rl6 CK:2 Mmn20:g 39.153313 $W=0.039
Rl7 Mmp20:g CK:2 212.230225 $W=0.039
Rk8 CK CK:2 45.160774 $W=0.1
*
*|NET D 2.06924e-16
*|P (D X 0 0.1000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.5775 0.4775)
*|I (Mmp1:g Mmp1 g X 0 0.4475 1.0325)
*|S (D:2 0.4475 0.7150)
*|S (D:3 0.3450 0.7150)
C11 Mmp1:g VSS 2.85192e-17
C12 Mmn1:g VSS 5.15181e-17
C13 D:2 VSS 3.0095e-17
C14 D:3 VSS 6.82733e-17
C15 D VSS 2.85183e-17
Rl9 D:2 D:3 57.138336 $W=0.094
Rl10 Mmn1:g D:2 94.539139 $W=0.039
Rl11 D:2 Mmp1:g 66.047852 $W=0.039
Rk12 D:3 D 0.191096 $W=0.1
*
*|NET SI 2.85893e-16
*|P (SI X 0 2.1000 0.8550)
*|I (Mmn12:g Mmn12 g X 0 1.9875 0.3775)
*|I (Mmp12:g Mmp12 g X 0 1.9875 1.2775)
*|S (SI:2 2.0250 0.5850)
C16 Mmp12:g VSS 8.55093e-17
C17 Mmn12:g VSS 3.11727e-17
C18 SI:2 VSS 1.03154e-16
C19 SI VSS 6.60578e-17
Rl13 SI:2 Mmn12:g 37.694366 $W=0.039
Rl14 Mmp12:g SI:2 210.771286 $W=0.039
Rk15 SI SI:2 45.174492 $W=0.0645
*
*|NET QN 2.99965e-16
*|P (QN X 0 6.3000 0.8550)
*|I (Mmn57@1:d Mmn57@1 d X 0 6.3300 0.4450)
*|I (Mmp57:d Mmp57 d X 0 6.3100 1.0950)
C20 Mmp57:d VSS 1.65405e-16
C21 Mmn57@1:d VSS 1.18898e-16
C22 QN VSS 1.56616e-17
Rk16 Mmn57@1:d QN 0.217019 $W=0.1
Rk17 Mmp57:d QN 0.047976 $W=0.1
*
*|NET SE 4.08545e-16
*|P (SE X 0 1.1000 0.8550)
*|I (Mmn10:g Mmn10 g X 0 0.9475 0.4775)
*|I (Mmn13:g Mmn13 g X 0 1.7775 0.3775)
*|I (Mmp10:g Mmp10 g X 0 0.9475 1.0325)
*|I (Mmp11:g Mmp11 g X 0 1.5725 1.2775)
*|S (SE:2 1.5725 0.8325)
*|S (SE:3 0.9750 0.7950)
C23 Mmp11:g VSS 3.63075e-17
C24 Mmp10:g VSS 2.76079e-17
C25 Mmn13:g VSS 6.6902e-17
C26 Mmn10:g VSS 2.69914e-17
C27 SE:2 VSS 8.14947e-17
C28 SE:3 VSS 1.0727e-16
C29 SE VSS 6.19717e-17
Rl18 SE:2 SE:3 213.850967 $W=0.039
Rl19 SE:3 Mmn10:g 76.718140 $W=0.039
Rl20 Mmn13:g SE:2 215.362503 $W=0.039
Rl21 SE:3 Mmp10:g 33.425137 $W=0.039
Rl22 SE:2 Mmp11:g 122.758423 $W=0.039
Rk23 SE:3 SE 45.028057 $W=0.285
*
*|NET net476 0
*|I (Mmn1:s Mmn1 s X 0 0.6300 0.4775)
*|I (Mmn0:d Mmn0 d X 0 0.6300 0.4775)
Rmw24 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET Db 4.75764e-16
*|I (Mmn1:d Mmn1 d X 0 0.4850 0.4775)
*|I (Mmn11:d Mmn11 d X 0 1.4800 0.3775)
*|I (Mmp1:d Mmp1 d X 0 0.5650 1.0325)
*|I (Mmp11:s Mmp11 s X 0 1.4800 1.2775)
*|S (Db:3 1.4700 1.2300)
*|S (Db:5 0.5500 0.9850)
C30 Mmp11:s VSS 1.65012e-16
C31 Mmp1:d VSS 1.5174e-16
C32 Mmn11:d VSS 1.05934e-16
C33 Mmn1:d VSS 5.30783e-17
Rk25 Db:3 Db:5 0.804390 $W=0.08
Rk26 Db:5 Mmn1:d 75.389511 $W=0.06
Rk27 Mmn11:d Db:3 75.673485 $W=0.08
Rk28 Mmp1:d Db:5 62.000000 $W=0.08
Rk29 Mmp11:s Db:3 62.000000 $W=0.08
*
*|NET SEb 7.13704e-16
*|I (Mmn10:d Mmn10 d X 0 1.0400 0.4775)
*|I (Mmn11:g Mmn11 g X 0 1.5725 0.3775)
*|I (Mmp10:d Mmp10 d X 0 1.0400 1.0325)
*|I (Mmp13:g Mmp13 g X 0 1.8625 1.2775)
*|S (SEb:2 1.6000 0.1950)
*|S (SEb:4 1.8350 0.9750)
*|S (SEb:6 1.0500 0.4650)
C34 Mmp13:g VSS 5.53652e-17
C35 Mmp10:d VSS 1.2863e-16
C36 Mmn11:g VSS 4.99404e-17
C37 Mmn10:d VSS 1.36011e-16
C38 SEb:2 VSS 1.78384e-16
C39 SEb:4 VSS 1.65373e-16
Rl30 Mmn11:g SEb:2 74.537926 $W=0.039
Rl31 Mmp13:g SEb:4 107.230240 $W=0.039
Rk32 SEb:4 SEb:2 0.812866 $W=0.08
Rk33 SEb:2 SEb:6 0.588715 $W=0.08
Rk34 Mmn10:d SEb:6 75.000000 $W=0.08
Rk35 SEb:6 Mmp10:d 62.790855 $W=0.08
*
*|NET Dbp 6.30796e-16
*|I (Mmn11:s Mmn11 s X 0 1.6750 0.3775)
*|I (Mmn25:d Mmn25 d X 0 3.1975 0.5025)
*|I (Mmp11:d Mmp11 d X 0 1.7175 1.2775)
*|I (Mmp25:s Mmp25 s X 0 3.2200 1.0875)
*|S (Dbp:2 3.0700 1.1200)
*|S (Dbp:3 1.6750 1.1350)
C40 Mmp25:s VSS 2.1398e-17
C41 Mmp11:d VSS 1.86097e-17
C42 Mmn25:d VSS 1.00578e-16
C43 Mmn11:s VSS 9.45701e-17
C44 Dbp:3 VSS 2.10473e-16
C45 Dbp:2 VSS 1.85167e-16
Rk36 Dbp:2 Dbp:3 1.345470 $W=0.08
Rk37 Dbp:3 Mmn11:s 75.666962 $W=0.06
Rk38 Dbp:2 Mmn25:d 75.497459 $W=0.08
Rk39 Dbp:3 Mmp11:d 62.052574 $W=0.09
Rk40 Mmp25:s Dbp:2 62.072041 $W=0.1225
*
*|NET net484 1.46245e-18
*|I (Mmn13:s Mmn13 s X 0 1.8825 0.3775)
*|I (Mmn12:d Mmn12 d X 0 1.8825 0.3775)
C46 Mmn13:s VSS 1.46245e-18
Rmw41 Mmn12:d Mmn13:s 0.001000 $W=1
*
*|NET CKb 7.2963e-16
*|I (Mmn20:d Mmn20 d X 0 2.3350 0.3775)
*|I (Mmn21:g Mmn21 g X 0 2.7475 0.5875)
*|I (Mmn25:g Mmn25 g X 0 3.3625 0.5025)
*|I (Mmn51:g Mmn51 g X 0 4.4925 0.5025)
*|I (Mmp20:d Mmp20 d X 0 2.3825 1.2775)
*|I (Mmp21:g Mmp21 g X 0 2.8225 1.0075)
*|I (Mmp36:g Mmp36 g X 0 3.5675 1.0875)
*|I (Mmp40:g Mmp40 g X 0 4.3175 1.0875)
*|S (CKb:4 3.3625 0.7375)
*|S (CKb:5 2.8225 0.7650)
*|S (CKb:6 2.7350 0.7650)
*|S (CKb:10 2.4700 0.7650)
C47 Mmp40:g VSS 1.06876e-16
C48 Mmp36:g VSS 1.20158e-16
C49 Mmp21:g VSS 2.70479e-17
C50 Mmp20:d VSS 7.15198e-17
C51 Mmn51:g VSS 7.82702e-17
C52 Mmn25:g VSS 3.33095e-17
C53 Mmn21:g VSS 1.44712e-17
C54 Mmn20:d VSS 6.48067e-17
C55 CKb:10 VSS 7.77925e-17
C56 CKb:5 VSS 2.17849e-17
C57 CKb:4 VSS 7.30785e-17
C58 CKb:6 VSS 4.05157e-17
Rl42 CKb:5 CKb:6 9.888334 $W=0.094
Rl43 CKb:4 CKb:5 206.489838 $W=0.039
Rl44 CKb:6 Mmn21:g 26.155905 $W=0.039
Rl45 CKb:4 Mmn25:g 55.450729 $W=0.039
Rl46 CKb:5 Mmp21:g 37.201698 $W=0.039
Rl47 Mmp36:g CKb:4 143.774323 $W=0.039
Rl48 Mmn51:g Mmp40:g 187.592819 $W=0.039
Rl49 Mmp40:g Mmp36:g 408.746674 $W=0.039
Rk50 CKb:6 CKb:10 45.165485 $W=0.09
Rk51 CKb:10 Mmn20:d 75.367363 $W=0.08
Rk52 CKb:10 Mmp20:d 62.337463 $W=0.09
*
*|NET CKbb 9.47291e-16
*|I (Mmn21:d Mmn21 d X 0 2.8725 0.5875)
*|I (Mmn36:g Mmn36 g X 0 3.5675 0.5025)
*|I (Mmn40:g Mmn40 g X 0 4.2025 0.5025)
*|I (Mmp21:d Mmp21 d X 0 2.9150 1.0075)
*|I (Mmp25:g Mmp25 g X 0 3.3125 1.0875)
*|I (Mmp51:g Mmp51 g X 0 4.5225 1.0875)
*|S (CKbb:2 3.2750 0.8700)
*|S (CKbb:4 3.5400 0.2450)
*|S (CKbb:6 4.2300 0.6850)
*|S (CKbb:8 4.4950 0.8700)
*|S (CKbb:9 3.5400 0.3250)
*|S (CKbb:10 3.2750 0.3250)
*|S (CKbb:12 2.9150 0.5750)
C59 Mmp51:g VSS 5.08574e-17
C60 Mmp25:g VSS 3.50957e-17
C61 Mmp21:d VSS 5.18792e-17
C62 Mmn40:g VSS 3.61007e-17
C63 Mmn36:g VSS 8.18547e-17
C64 Mmn21:d VSS 8.59433e-17
C65 CKbb:10 VSS 8.02573e-17
C66 CKbb:9 VSS 9.50832e-17
C67 CKbb:2 VSS 1.17794e-16
C68 CKbb:4 VSS 4.63661e-17
C69 CKbb:6 VSS 1.62199e-16
C70 CKbb:8 VSS 1.03861e-16
Rl53 Mmn36:g CKbb:4 103.384079 $W=0.039
Rl54 Mmn40:g CKbb:6 74.537926 $W=0.039
Rl55 Mmp25:g CKbb:2 73.078979 $W=0.039
Rl56 Mmp51:g CKbb:8 74.537926 $W=0.039
Rk57 CKbb:6 CKbb:8 0.303510 $W=0.08
Rk58 CKbb:9 CKbb:6 0.770989 $W=0.08
Rk59 CKbb:4 CKbb:9 0.025331 $W=0.125
Rk60 CKbb:10 CKbb:2 0.404037 $W=0.08
Rk61 CKbb:9 CKbb:10 0.213364 $W=0.09
Rk62 CKbb:10 CKbb:12 0.398597 $W=0.09
Rk63 Mmn21:d CKbb:12 75.000000 $W=0.09
Rk64 CKbb:12 Mmp21:d 62.292789 $W=0.08
*
*|NET n20 3.03224e-16
*|I (Mmn25:s Mmn25 s X 0 3.4650 0.5025)
*|I (Mmn30:g Mmn30 g X 0 3.9075 0.5025)
*|I (Mmp25:d Mmp25 d X 0 3.4400 1.0875)
*|I (Mmp30:g Mmp30 g X 0 3.9075 1.0875)
*|S (n20:2 3.8800 0.6850)
*|S (n20:4 3.4650 0.6850)
C71 Mmp30:g VSS 5.1853e-17
C72 Mmp25:d VSS 3.53941e-17
C73 Mmn30:g VSS 3.32006e-17
C74 Mmn25:s VSS 3.73304e-17
C75 n20:4 VSS 5.06053e-17
C76 n20:2 VSS 9.48405e-17
Rl65 n20:2 Mmn30:g 29.537926 $W=0.039
Rl66 Mmp30:g n20:2 100.691772 $W=0.039
Rk67 n20:2 n20:4 45.280247 $W=0.09
Rk68 n20:4 Mmn25:s 75.127251 $W=0.09
Rk69 n20:4 Mmp25:d 62.261494 $W=0.08
*
*|NET net452 0
*|I (Mmn36:s Mmn36 s X 0 3.6200 0.5025)
*|I (Mmn35:d Mmn35 d X 0 3.6200 0.5025)
Rmw70 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 3.64029e-16
*|I (Mmn35:g Mmn35 g X 0 3.6725 0.5025)
*|I (Mmn30:d Mmn30 d X 0 4.0550 0.5025)
*|I (Mmp35:g Mmp35 g X 0 3.6725 1.0875)
*|I (Mmp30:d Mmp30 d X 0 4.1125 1.0875)
*|S (mout:2 3.7100 0.8450)
*|S (mout:5 4.0700 0.8450)
C77 Mmp30:d VSS 2.33674e-17
C78 Mmp35:g VSS 6.22266e-17
C79 Mmn30:d VSS 5.26876e-17
C80 Mmn35:g VSS 6.89917e-17
C81 mout:5 VSS 5.44423e-17
C82 mout:2 VSS 1.02313e-16
Rl71 mout:2 Mmn35:g 89.617439 $W=0.039
Rl72 Mmp35:g mout:2 37.694366 $W=0.039
Rk73 mout:5 mout:2 45.241379 $W=0.09
Rk74 mout:5 Mmn30:d 75.258438 $W=0.08
Rk75 Mmp30:d mout:5 62.140717 $W=0.1
*
*|NET n30 4.77018e-16
*|I (Mmn40:d Mmn40 d X 0 4.3475 0.5025)
*|I (Mmn45@1:g Mmn45@1 g X 0 4.8175 0.4725)
*|I (Mmp40:d Mmp40 d X 0 4.4200 1.0875)
*|S (n30:6 4.6550 0.6800)
C83 Mmp40:d VSS 5.85094e-17
C84 Mmn45@1:g VSS 2.67891e-16
C85 Mmn40:d VSS 6.5001e-17
C86 n30:6 VSS 8.56166e-17
Rk76 n30:6 Mmn40:d 75.314301 $W=0.09
Rk77 n30:6 Mmn45@1:g 45.258717 $W=0.08
Rk78 n30:6 Mmp40:d 62.420280 $W=0.08
*
*|NET net460 0
*|I (Mmn51:s Mmn51 s X 0 4.5525 0.5025)
*|I (Mmn50:d Mmn50 d X 0 4.5525 0.5025)
Rmw79 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET qbint 1.20664e-15
*|I (Mmn50:g Mmn50 g X 0 4.6125 0.5025)
*|I (Mmn45@1:d Mmn45@1 d X 0 4.9200 0.4725)
*|I (Mmn55@1:g Mmn55@1 g X 0 5.2875 0.4450)
*|I (Mmn56:g Mmn56 g X 0 7.2525 0.4450)
*|I (Mmp50:g Mmp50 g X 0 4.7125 1.0875)
*|I (Mmp45:d Mmp45 d X 0 5.0500 1.1350)
*|I (Mmp56:g Mmp56 g X 0 7.0525 1.0950)
*|S (qbint:1 4.8150 0.8700)
*|S (qbint:2 4.7125 0.8700)
*|S (qbint:21 7.1000 0.7000)
*|S (qbint:24 4.9200 0.4300)
*|S (qbint:25 5.1750 0.8150)
*|S (qbint:26 5.0500 0.8400)
C87 Mmp56:g VSS 4.66957e-17
C88 Mmp45:d VSS 5.96553e-17
C89 Mmp50:g VSS 3.89633e-17
C90 Mmn56:g VSS 3.58522e-17
C91 Mmn55@1:g VSS 2.96868e-16
C92 Mmn45@1:d VSS 2.14196e-16
C93 Mmn50:g VSS 6.35779e-17
C94 qbint:26 VSS 2.28719e-17
C95 qbint:25 VSS 3.24092e-17
C96 qbint:2 VSS 3.42114e-17
C97 qbint:1 VSS 7.70816e-17
C98 qbint:21 VSS 2.84253e-16
Rl80 qbint:1 qbint:2 51.990017 $W=0.114
Rl81 qbint:2 Mmn50:g 129.214478 $W=0.039
Rl82 Mmn56:g qbint:21 69.770187 $W=0.039
Rl83 qbint:2 Mmp50:g 37.341133 $W=0.039
Rl84 qbint:21 Mmp56:g 62.694366 $W=0.039
Rk85 qbint:24 qbint:21 46.879051 $W=0.06
Rk86 qbint:25 qbint:24 0.429270 $W=0.08
Rk87 qbint:26 qbint:1 0.178463 $W=0.08
Rk88 qbint:26 qbint:25 0.105799 $W=0.1
Rk89 qbint:24 Mmn45@1:d 75.000000 $W=0.06
Rk90 qbint:25 Mmn55@1:g 45.068344 $W=0.12
Rk91 qbint:26 Mmp45:d 31.197592 $W=0.085
*
*|NET net436 4.31172e-16
*|I (Mmn57@1:g Mmn57@1 g X 0 6.2275 0.4450)
*|I (Mmn56:d Mmn56 d X 0 7.3450 0.4450)
*|I (Mmp56:d Mmp56 d X 0 7.1450 1.0950)
*|S (net436:16 7.1550 0.8900)
C99 Mmp56:d VSS 3.4963e-17
C100 Mmn56:d VSS 4.45306e-17
C101 Mmn57@1:g VSS 3.165e-16
C102 net436:16 VSS 3.51788e-17
Rk92 net436:16 Mmn57@1:g 45.207176 $W=0.09
Rk93 net436:16 Mmn56:d 75.354507 $W=0.1
Rk94 net436:16 Mmp56:d 20.793282 $W=0.09
*
*|NET net411 0
*|I (Mmp13:s Mmp13 s X 0 1.9250 1.2775)
*|I (Mmp12:d Mmp12 d X 0 1.9250 1.2775)
Rmw95 Mmp12:d Mmp13:s 0.001000 $W=1
*
*|NET net375 0
*|I (Mmp36:s Mmp36 s X 0 3.6200 1.0875)
*|I (Mmp35:d Mmp35 d X 0 3.6200 1.0875)
Rmw96 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET net395 5.26647e-18
*|I (Mmp51:s Mmp51 s X 0 4.6175 1.0875)
*|I (Mmp50:d Mmp50 d X 0 4.6175 1.0875)
C103 Mmp51:s VSS 5.26647e-18
Rmw97 Mmp50:d Mmp51:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=1.4e-07 sb=5.1e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0319P	PD=0.41U	PS=0.73U
+ fw=1.45e-07 sa=2.45e-07 sb=4.05e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0319P	PD=0.57U	PS=0.73U
+ fw=1.45e-07 sa=5.1e-07 sb=1.4e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=8.1e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn13	Mmn11:s	Mmn13:g	Mmn13:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.02392P	PD=0.61U	PS=0.62U
+ fw=1.45e-07 sa=3.45e-07 sb=6.05e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.03045P	PD=0.62U	PS=0.71U
+ fw=1.45e-07 sa=5.55e-07 sb=3.95e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.03045P	PD=0.57U	PS=0.71U
+ fw=1.45e-07 sa=8.1e-07 sb=1.4e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02973P	AS=0.0203P	PD=0.7U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=2.05e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn25	Mmn25:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04133P	AS=0.0232P	PD=0.86U	PS=0.61U
+ fw=1.45e-07 sa=2.85e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn36	Mmn25:s	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=4.9e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.05345P	PD=0.41U	PS=1.51U
+ fw=1.45e-07 sa=5.95e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03625P	AS=0.05345P	PD=0.79U	PS=1.51U
+ fw=1.45e-07 sa=8.3e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn40	Mmn40:d	Mmn40:g	Mmn30:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03553P	AS=0.03625P	PD=0.78U	PS=0.79U
+ fw=1.45e-07 sa=1.125e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn51	Mmn40:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03553P	AS=0.01088P	PD=0.78U	PS=0.44U
+ fw=1.45e-07 sa=1.415e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01088P	AS=0.0292P	PD=0.44U	PS=0.73U
+ fw=1.45e-07 sa=1.535e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0676P	PD=0.8U	PS=1.04U
+ fw=2.6e-07 sa=2e-06 sb=1.4e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.05593P	PD=0.73U	PS=1.08U	M=2
+ fw=2.05e-07 sa=1.26e-06 sb=2e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn55@1	Mmn55@1:d	Mmn55@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.08471P	PD=0.84U	PS=1.43U	M=4
+ fw=2.6e-07 sa=1.28288e-06 sb=2e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn57@1	Mmn57@1:d	Mmn57@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04745P	AS=0.08095P	PD=0.885U	PS=1.3325U	M=4
+ fw=2.6e-07 sa=1.69865e-06 sb=1.165e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.0301P	PD=0.81U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=6.4e-07 sca=36.2105 scb=0.0289447 scc=0.0042917
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.0845P	PD=0.81U	PS=1.49U
+ fw=2.15e-07 sa=3.75e-07 sb=4.05e-07 sca=34.1358 scb=0.0262014 scc=0.0042716
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0845P	PD=0.71U	PS=1.49U
+ fw=2.15e-07 sa=6.4e-07 sb=1.4e-07 sca=33.3059 scb=0.0257988 scc=0.00427133
Mmp11	Mmp11:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05268P	AS=0.0301P	PD=0.92U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=9.05e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp13	Mmp11:d	Mmp13:g	Mmp13:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05268P	AS=0.0172P	PD=0.92U	PS=0.59U
+ fw=2.15e-07 sa=4.3e-07 sb=6.15e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0172P	AS=0.04515P	PD=0.59U	PS=0.85U
+ fw=2.15e-07 sa=5.55e-07 sb=4.9e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05053P	AS=0.04515P	PD=0.9U	PS=0.85U
+ fw=2.15e-07 sa=8.1e-07 sb=2.35e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.048P	PD=0.71U	PS=1.41U
+ fw=2.15e-07 sa=1e-07 sb=1.4e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp25	Mmp25:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.0301P	PD=0.85U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp36	Mmp25:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.0129P	PD=0.85U	PS=0.55U
+ fw=2.15e-07 sa=3.95e-07 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.04085P	PD=0.55U	PS=0.81U
+ fw=2.15e-07 sa=5e-07 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.07848P	AS=0.04085P	PD=1.16U	PS=0.81U
+ fw=2.15e-07 sa=7.35e-07 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp40	Mmp40:d	Mmp40:g	Mmp30:d	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.07848P	PD=0.75U	PS=1.16U
+ fw=2.15e-07 sa=1.145e-06 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp51	Mmp40:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.03118P	PD=0.75U	PS=0.72U
+ fw=2.15e-07 sa=1.35e-06 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03118P	AS=0.05415P	PD=0.72U	PS=1U
+ fw=2.15e-07 sa=1.54e-06 sb=2e-06 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.96e-06 sb=1.4e-07 sca=32.2573 scb=0.0215683 scc=0.00336427
Mmp45	Mmp45:d	Mmn45@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.06213P	PD=0.94U	PS=1.08U	M=2
+ fw=3.1e-07 sa=1.27395e-06 sb=2e-06 sca=17.3904 scb=0.0162056 scc=0.00137566
Mmp55@1	Mmp55@1:d	Mmn55@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06433P	PD=1.1U	PS=1.115U	M=4
+ fw=3.9e-07 sa=1.27256e-06 sb=1.805e-06 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp57	Mmp57:d	Mmn57@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.06728P	AS=0.0624P	PD=1.125U	PS=1.1U	M=4
+ fw=3.9e-07 sa=1.64051e-06 sb=9.85e-07 sca=30.5009 scb=0.0202006 scc=0.00336097
.ENDS
.END
